* SPICE code for sample

* define the resistor network


* Resistors in the X and Y
R_0 1 2 -32.9246383101
R_1 2 3 -36.8268175281
R_2 3 4 -18.5121699765
R_3 4 5 291.380742133
R_4 5 6 76.4701801649
R_5 1 7 260.192753419
R_6 2 8 28.6864653108
R_7 3 9 656.638760076
R_8 4 10 425.0948754
R_9 5 11 278.649240592
R_10 6 12 115.584603068
R_11 7 8 112.251132823
R_12 8 9 521.327416669
R_13 9 10 709.889775483
R_14 10 11 527.612868655
R_15 11 12 297.236159555
R_16 7 13 585.861592327
R_17 8 14 537.007183375
R_18 9 15 -39.0
R_19 10 16 652.328931117
R_20 11 17 409.056663689
R_21 12 18 1023.34074647
R_22 13 14 -14.8112103324
R_23 14 15 -34.0983085814
R_24 15 16 206.790871121
R_25 16 17 491.121230202
R_26 17 18 424.06856969
R_27 13 19 1307.88023391
R_28 14 20 1284.20493739
R_29 15 21 105.1430004
R_30 16 22 331.132043181
R_31 17 23 238.399912228
R_32 18 24 -39.0
R_33 19 20 37.0178415877
R_34 20 21 1042.32981711
R_35 21 22 187.339576302
R_36 22 23 758.125067173
R_37 23 24 -33.9145746511
R_38 19 25 433.259937648
R_39 20 26 10.0395200695
R_40 21 27 255.090530242
R_41 22 28 -39.0
R_42 23 29 188.752475275
R_43 24 30 -37.7244641078
R_44 25 26 127.369981119
R_45 26 27 838.065446045
R_46 27 28 783.347418275
R_47 28 29 641.379289071
R_48 29 30 -37.8986271113
R_49 25 31 173.342625045
R_50 26 32 237.449912364
R_51 27 33 1131.95881674
R_52 28 34 -14.282088485
R_53 29 35 -37.7976905623
R_54 30 36 10.7859147165
R_55 31 32 60.283289338
R_56 32 33 -39.0
R_57 33 34 1474.64791327
R_58 34 35 558.775756511
R_59 35 36 186.602454477

* contact Resistors
R_contact_V 6 37 8072.59067728
R_contact_GND 0 31 8609.51652548

* Add the voltage probe steps
v1 0 37 dc -9.86201143

* add operators
.op
.end
